US07902223B2
The crude 1-(7-{1-[4-(2-oxopiperidin-1-yl)phenylcarbamoyl]butoxy}-isoquinolin-1-yl)pyridinium toluene4-sulfonate obtained in this way is dissolved in 4 ml of ethanolamine, and the mixture is stirred at room temperature for 42 hours. The reaction mixture is introduced into water and extracted with ethyl acetate. The organic phase is evaporated, and the residue is chromatographed on a silica-gel column, giving N-[4-(2-oxopiperidin-1-yl)phenyl]-2-(1-aminoisoquinolin-7-yloxy)pentanamide (“AA”) as a colourless solid; ESI 433.

reactant | 1-(7-{1-[4-(2-oxopiperidin-1-yl)phenylcarbamoyl]butoxy}-isoquinolin-1-yl)pyridinium toluene4-sulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.O=C1N(CCCC1)C1=CC=C(C=C1)NC(=O)C(CCC)OC1=CC=C2C=CN=C(C2=C1)[N+]1=CC=CC=C1
reactant | water | O | H2O
solvent | ethanolamine | 4 ml | C(O)CN | C2H7NO
product | N-[4-(2-oxopiperidin-1-yl)phenyl]-2-(1-aminoisoquinolin-7-yloxy)pentanamide | O=C1N(CCCC1)C1=CC=C(C=C1)NC(C(CCC)OC1=CC=C2C=CN=C(C2=C1)N)=O | C25H28N4O3
